US05864039
4-Amino-5-chloro-N-(1-(3-(2,3-dihydro-1,3-dioxo-1H-isoindol-2-yl)propyl)piperidin-4-ylmethyl)-2-methoxybenzamide (7.7 g) as starting compound and hydrazine monohydrate (0.76 ml) were reacted and treated in the same manner as in Example 117 to give 3.6 g of 4-amino-N-(1-(3-aminopropyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-N-(1-(3-(2,3-dihydro-1,3-dioxo-1H-isoindol-2-yl)propyl)piperidin-4-ylmethyl)-2-methoxybenzamide | 7.7 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCN2C(C3=CC=CC=C3C2=O)=O)C=C1Cl)OC | C25H29ClN4O4
reactant | hydrazine monohydrate | 0.76 ml | O.NN
product | 4-amino-N-(1-(3-aminopropyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 3.6 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCN)C=C1Cl)OC | C17H27ClN4O2
